US07524852B2
Synthesis of tert-butyl 4-(2-pyrrolidin-1-ylacetyl)piperidinecarboxylate for use in the synthesis of Compound 3-30
Tert-butyl 4-(2-bromoacetyl)piperidinecarboxylate (0.85 g, 2.8 mmol) was dissolved in tetrahydrofuran (8.5 mL), and the solution was mixed with pyrrolidine (0.46 mL, 5.6 mmol) and triethylamine (0.78 mL, 5.6 mmol) with stirring at room temperature, followed by stirring for twenty-four hours. The reaction mixture was mixed with diluted hydrochloric acid (0.5 mol/L, 27 mL) and washed with ethyl acetate. The aqueous layer was adjusted to be basic with an aqueous potassium hydroxide solution added under ice-cooling and was extracted with ethyl acetate. The organic layer was washed with brine, was dried over anhydrous sodium sulfate, and the solvent was distilled off. The residue was dried under reduced pressure and thereby yielded tert-butyl 4-(2-pyrrolidin-1-ylacetyl)piperidinecarboxylate (0.72 g, 87%).

reactant | Tert-butyl 4-(2-bromoacetyl)piperidinecarboxylate | 2.8 mmol, 0.85 g | BrCC(=O)C1CCN(CC1)C(=O)OC(C)(C)C | C12H20BrNO3
reactant | pyrrolidine | 5.6 mmol, 0.46 mL | N1CCCC1 | C4H9N
reactant | triethylamine | 5.6 mmol, 0.78 mL | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 0.5 mol/L, 27 mL | Cl | ClH
solvent | tetrahydrofuran | 8.5 mL | O1CCCC1 | C4H8O
product | tert-butyl 4-(2-pyrrolidin-1-ylacetyl)piperidinecarboxylate | N1(CCCC1)CC(=O)C1CCN(CC1)C(=O)OC(C)(C)C | C16H28N2O3
